US06133264
1.5 Grams of 5-acetoxy-3,4-dihydro-8-methoxy-2(1H)-quinolinone was suspended in 10 ml of ethanol, to this suspension were added 4 ml of 50%-dimethylamine aqueous solution and 2 ml of 37%-formalin, this mixture was refluxed by heating for 10 hours. The reaction mixture was concentrated to dryness under reduced pressure, the residue was purified by a silica gel flash column chromatography (eluent: methylene chloride: methanol=20:1→10:1). The oily product thus obtained was dissolved in ethanol, this solution was acidified by adding hydrochloric acid, concentrated to dryness, and recrystallized from ethanol, there was obtained 3.8 g of 6-(dimethylaminomethyl)-3,4-dihydro-5-hydroxy-8-methoxy-2(1H)-quinolinone hydrochloride as white powdery product.

reactant | 5-acetoxy-3,4-dihydro-8-methoxy-2(1H)-quinolinone | C(C)(=O)OC1=C2CCC(NC2=C(C=C1)OC)=O | C12H13NO4
reactant | dimethylamine | CNC | C2H7N
reactant | formalin | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-(dimethylaminomethyl)-3,4-dihydro-5-hydroxy-8-methoxy-2(1H)-quinolinone hydrochloride | 3.8 g | Cl.CN(C)CC=1C(=C2CCC(NC2=C(C1)OC)=O)O | InChI=1S/C13H18N2O3.ClH/c1-15(2)7-8-6-10(18-3)12-9(13(8)17)4-5-11(16)14-12;/h6,17H,4-5,7H2,1-3H3,(H,14,16);1H
